US07592358B2
47.1b. 4-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}piperidin-4-ol
The product was obtained analogously to Example 7.1e starting from 4-(4-iodophenyl)piperidin-4-ol and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 0.78 g (61% of theoretical); C24H21ClN2O (M=388.889); calc.: molpeak (M+H)+:389/391 (Cl); found: molpeak (M+H)+:389/391 (Cl); Rf value: 0.86 (silica gel, EtOAc/cyc 4:1).

reactant | 4-(4-iodophenyl)piperidin-4-ol | IC1=CC=C(C=C1)C1(CCNCC1)O | C11H14INO
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}piperidin-4-ol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)C1(CCNCC1)O | C24H21ClN2O
